US07030267B2
To 1-aminomethyl-2-isobutyl-cyclopropanecarboxylic acid ethyl ester (0.1 g, 0.50 mmol) was added 10 mL 3N HCl (aq), and the mixture was refluxed for 60 hours. The crude 1H NMR indicated the hydrolysis had proceeded to 100% completion. The solution was filtered while hot through a glass wool plug and concentrated. The solid residue was washed with Et2O (2×3 mL) to give 86 mg (100%) of 1-aminomethyl-2-isobutyl-cyclopropanecarboxylic acid hydrochloride as a colorless solid, mp>220° C. (dec): 1H NMR (D2O) δ 3.34 (d, J=13.7 Hz, 1H), 2.83 (d, J=13.9 Hz, 1H), 1.57 (m, 1H), 1.47 (m, 1H), 1.37 (m, 1H), 1.30 (m, 1H), 1.00 (m, 1H), 0.72 (m, 7H). LRMS: m/z 169.9 (M−1). Anal. Calcd for C9H17NO2.HCl: C, 52.05; H, 8.74; N, 6.74. Found: C, 50.32; H, 8.15; N, 6.53.

reactant | 1-aminomethyl-2-isobutyl-cyclopropanecarboxylic acid ethyl ester | 0.50 mmol, 0.1 g | C(C)OC(=O)C1(C(C1)CC(C)C)CN | C11H21NO2
reactant | HCl | 3N, 10 mL | Cl | ClH
product | 1-aminomethyl-2-isobutyl-cyclopropanecarboxylic acid hydrochloride | 86 mg, 100% | Cl.NCC1(C(C1)CC(C)C)C(=O)O | InChI=1S/C9H17NO2.ClH/c1-6(2)3-7-4-9(7,5-10)8(11)12;/h6-7H,3-5,10H2,1-2H3,(H,11,12);1H
